US04859229
A nitrating solution consisting of 2.2 ml of nitric acid and 24 ml of sulphuric acid is pre-cooled to -15° C. 9.26 g of 3-(4-chloro-2-fluorophenyl)-6 -trifluoromethyl-2,4(1H,3H)-pyrimidinedione are added portion wise to the solution while stirring. The mixture is stirred at 15° C. for 30 minutes and subsequently at room temperature for 1 hour. Thereafter, the mixture is poured onto 150 ml of ice-water and the resulting crystalline precipitate is filtered off. In this manner there is obtained 3-(4-chloro-2-fluoro-5-nitrophenyl)-6 -trifluoromethyl-2,4(1H,3H)-pyrimidinedione. m.p. 204° C.

reactant | nitric acid | 2.2 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | 24 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3-(4-chloro-2-fluorophenyl)-6 -trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 9.26 g | ClC1=CC(=C(C=C1)N1C(NC(=CC1=O)C(F)(F)F)=O)F | C11H5ClF4N2O2
product | 3-(4-chloro-2-fluoro-5-nitrophenyl)-6 -trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1[N+](=O)[O-])N1C(NC(=CC1=O)C(F)(F)F)=O)F | C11H4ClF4N3O4
